US06277872B1
b) Preparation of 5-{2-[2-(4-methylpiperazin-1-yl)ethyl]oxy-phenyl}-3-phenyl-1, 2,4-oxadiazole
1.72 g of 5-[2-(2-bromoethyl)oxy-phenyl]-3-phenyl-1,2,4-oxadiazole are dissolved in 50 ml of anhydrous dioxane and mixed with 2 g of N-methylpiperazine. The solution is refluxed for one hour and then concentrated by evaporation in vacuo. The residue is chromatographed on silica gel with dichloromethane/methanol (90/10). The base thus obtained is dissolved in anhydrous ethanol, acidified with ethereal HCl and precipitated with diethyl ether. The residue is recrystallised from anhydrous ethanol and diethylether. Yield: 1.7 g (78% of theory). m.p.: 251-253° C.

reactant | 5-[2-(2-bromoethyl)oxy-phenyl]-3-phenyl-1,2,4-oxadiazole | 1.72 g | BrCCOC1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1 | C16H13BrN2O2
reactant | N-methylpiperazine | 2 g | CN1CCNCC1 | C5H12N2
reactant | HCl | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 5-{2-[2-(4-methylpiperazin-1-yl)ethyl]oxy-phenyl}-3-phenyl-1, 2,4-oxadiazole | CN1CCN(CC1)CCOC1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1 | C21H24N4O2
